*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents


Va 0 6 5.11324505775
R1 1 0 1.0162457409k
R2 1 2 2.05507529065k
R3 1 7 3.14574535918k
R4 7 6 4.03531015178k
R5 7 3 3.10425245864k
vf 6 8 0
R6 8 5 2.0191831586k
R7 5 4 1.03927082306k
Id 4 3 1.00396804542m
Gb 3 2 1 7 7.27390671914m
Hc 7 4 vf 8.11887433018k



.model P2model NPN(Bf=200, CJE=12pF, CJC=2pF)

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op



echo  "op_TAB"
print all
echo  "op_END"


quit
.endc

.end
